US09290485B2
c) 1-((4-Methyl-3-oxo-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl)methyl)-1H-pyrazole-4-carboxylic acid
Ethyl 1-((4-methyl-3-oxo-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl)methyl)-1H-pyrazole-4-carboxylate (780 mg, 0.618 mmol) was dissolved in a mixture of MeOH (5 ml) and 1N NaOH (5.00 ml). The reaction mixture was stirred for 2 hr at 20° C. and the MeOH was removed by evaporation under reduced pressure. The aqeuous phase was washed with AcOEt, then acidified with HCl and extracted with AcOEt. The organic layer was concentrated under reduced pressure to afford the title compound. HPLC (Method H) Rt=2.636 min; MS (Method A) [M−H]−=286.1

reactant | Ethyl 1-((4-methyl-3-oxo-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl)methyl)-1H-pyrazole-4-carboxylate | 0.618 mmol, 780 mg | CN1C2=C(OCC1=O)C=CC(=C2)CN2N=CC(=C2)C(=O)OCC | C16H17N3O4
solvent | MeOH | 5 ml | CO | CH4O
solvent | NaOH | 1N, 5.00 ml | [OH-].[Na+]
product | 1-((4-Methyl-3-oxo-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl)methyl)-1H-pyrazole-4-carboxylic acid | CN1C2=C(OCC1=O)C=CC(=C2)CN2N=CC(=C2)C(=O)O | C14H13N3O4
